US06057358
The 2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethanol as produced in Example 4-(1) in an amount of 2 g (8.36 mmol) was added to methylene chloride (20 ml) and thionyl chloride (0.91 ml, 12.54 mmol) was slowly added dropwise at room temperature, followed by stirring for 24 h. Thereafter, the reaction mixture was subjected to extraction with methylene chloride and washed with a saturated solution of sodium bicarbonate, followed by drying with anhydrous magnesium sulfate and evaporation of the solvent to yield the end compound 1-chloro-2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethane (2.15 g)

reactant | 2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethanol | COC=1C=C(CCN(C)CCO)C=CC1OC | C13H21NO3
reactant | thionyl chloride | 12.54 mmol, 0.91 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-chloro-2-[N-(3,4-dimethoxyphenethyl)-N-methylamino]ethane | 2.15 g | ClCCN(C)CCC1=CC(=C(C=C1)OC)OC | C13H20ClNO2
